US05698696
5-BENZYLOXY-2,2,4,6,7-PENTAMETHYL-2,3-DIHYDRO-1-BENZOFURAN-3-ONE
Potassium carbonate (720 g) is added to a solution of 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one (453 g, 2.1 mol) in acetone (2 L). A solution of benzyl bromide (423 g, 2.5 mmol) in acetone (200 mL) is added portionwise over a period of 10 min. A slight exotherm is observed. After 3 hrs, the mixture is heated to reflux. After 39 hrs, TLC shows complete conversion to product. The mixture is cooled to 50° C. and filtered using 1.5 L of ethyl acetate to remove the solids from the flask. The solids are washed with ethyl acetate (1.5 L). The filtrate is concentrated. The resulting solids are dissolved in ethyl acetate (7 L). This solution is washed with water, dried (magnesium sulfate) and concentrated. The resulting solids are placed on a tray for air-drying. After 2 days, 5-benzyloxy-2,2,4,6,7-pentamethyl-2,3-d3-onenzofuran-3-one is collected (638g, 99%). mp=114° C.-115° C.

reactant | Potassium carbonate | 720 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one | 2.1 mol, 453 g | OC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C13H16O3
reactant | benzyl bromide | 2.5 mmol, 423 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 2 L | CC(=O)C | C3H6O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 5-BENZYLOXY-2,2,4,6,7-PENTAMETHYL-2,3-DIHYDRO-1-BENZOFURAN-3-ONE | C(C1=CC=CC=C1)OC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C20H22O3
